US05160365
i-Propyl 2-[3-(4-methoxy-6-trifluoromethyl-1,3, 5-triazin-2-yl)ureidosulfonyl]benzoate
A solution of 5.4 g of 2-(i-propoxycarbonyl) benzenesulfonyl isocyanate (20 mmol) in 5.4 g of 1,2-dichloroethane is added dropwise over the course of 5 min to a solution of 3.9 g of 2-amino-4-methoxy-6-trifluoromethyl-1,3, 5-triazine (20 mmol) in 150 ml of 1,2-dichloroethane at 25° C. The mixture is stirred at 25° C. for 16 h and then at 50° C. for 2 h. After removal of the volatiles under waterpump vacuum at 60° C., the residue is stirred with a mixture of ethanol and pentane, when crystallization occurs. The product is filtered off with suction and dried at 50° C. under waterpump vacuum. 6.1 g of the title compound (13 mmol; 66% of theory) are isolated with melting point 182°-185° C.

reactant | 2-(i-propoxycarbonyl) benzenesulfonyl isocyanate | 20 mmol, 5.4 g | C(C)(C)OC(=O)C1=C(C=CC=C1)S(=O)(=O)N=C=O | C11H11NO5S
reactant | 2-amino-4-methoxy-6-trifluoromethyl-1,3, 5-triazine | 20 mmol, 3.9 g | NC1=NC(=NC(=N1)OC)C(F)(F)F | C5H5F3N4O
solvent | 1,2-dichloroethane | 5.4 g | ClCCCl | C2H4Cl2
solvent | 1,2-dichloroethane | 150 ml | ClCCCl | C2H4Cl2
product | i-Propyl 2-[3-(4-methoxy-6-trifluoromethyl-1,3, 5-triazin-2-yl)ureidosulfonyl]benzoate | 13 mmol, 6.1 g, 66% | COC1=NC(=NC(=N1)C(F)(F)F)NC(NS(=O)(=O)C1=C(C(=O)OC(C)C)C=CC=C1)=O | C16H16F3N5O6S
